US09145380B2
a) N,N-Diallyl-4-(3-(5-chloro-6-methoxypyridin-3-yl)phenylsulfonamido)pyridine-3-sulfonamide
A mixture of N,N-diallyl-4-(3-bromophenylsulfonamido)pyridine-3-sulfonamide (0.29 g, 0.62 mmol), 5-chloro-6-methoxypyridin-3-ylboronic acid (0.15 g, 0.81 mmol), (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.026 g, 0.030 mmol), cesium carbonate (0.30 g, 0.93 mmol), 1,2-dimethoxyethane (4.5 mL) and water (0.5 mL) under an atmosphere of argon was heated at 100° C. for 15 min in a microwave reactor. The reaction mixture was partitioned between ethyl acetate and diluted hydrochloric acid, the organic phase was dried over magnesium sulfate and the solvent was evaporated. Purification by column chromatography, using chloroform/methanol (98:2) as the eluent, gave the title compound in 58% yield.

reactant | N,N-diallyl-4-(3-bromophenylsulfonamido)pyridine-3-sulfonamide | 0.62 mmol, 0.29 g | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)C1=CC(=CC=C1)Br)CC=C | C17H18BrN3O4S2
reactant | 5-chloro-6-methoxypyridin-3-ylboronic acid | 0.81 mmol, 0.15 g | ClC=1C=C(C=NC1OC)B(O)O | C6H7BClNO3
reactant | cesium carbonate | 0.93 mmol, 0.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-dimethoxyethane | 4.5 mL | COCCOC | C4H10O2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.030 mmol, 0.026 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 0.5 mL | O | H2O
product | N,N-Diallyl-4-(3-(5-chloro-6-methoxypyridin-3-yl)phenylsulfonamido)pyridine-3-sulfonamide | 58% yield | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)C1=CC(=CC=C1)C=1C=NC(=C(C1)Cl)OC)CC=C | C23H23ClN4O5S2
